US07687515B2
D: 2-Chloromethyl-1-ethyl-6-(3-trifluoromethyl-phenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile
Ytterbium triflate (1.16 g, 1.8 mmol) and 2-chloro-1,1,1-trimethoxyethane (7.56 mL, 56.0 mmol) was added to a solution of 3-amino-4-ethylamino-6-(3-trifluoromethylphenyl)-pyridine-2-carbonitrile (5.73 g, 18.7 mmol) in acetonitrile (150 mL). The mixture was refluxed for 48 hours, then concentrated under reduced pressure. The residue was partitioned between ethyl acetate and water. The organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was triturated with diethyl ether, filtered off to afford the title compound (5.92 g, 87%) as a solid. 1H NMR (DMSO-d6) δ: 8.85 (s, 1H); 8.50-8.00 (m, 2H); 7.90-7.70 (m, 2H); 5.26 (s, 2H); 4,55-4.45 (m, 2H); 1.48 (t, J=7 Hz, 3H). MS m/z: 365 (M+1).

reactant | Ytterbium triflate | 1.8 mmol, 1.16 g | [O-]S(=O)(=O)C(F)(F)F.[Yb+3].[O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F
reactant | 2-chloro-1,1,1-trimethoxyethane | 56.0 mmol, 7.56 mL | ClCC(OC)(OC)OC | C5H11ClO3
reactant | 3-amino-4-ethylamino-6-(3-trifluoromethylphenyl)-pyridine-2-carbonitrile | 18.7 mmol, 5.73 g | NC=1C(=NC(=CC1NCC)C1=CC(=CC=C1)C(F)(F)F)C#N | C15H13F3N4
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
product | 2-Chloromethyl-1-ethyl-6-(3-trifluoromethyl-phenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile | 5.92 g, 87% | ClCC=1N(C2=C(C(=NC(=C2)C2=CC(=CC=C2)C(F)(F)F)C#N)N1)CC | C17H12ClF3N4
